US08022205B2
To dichloroethane solution (2 ml) of bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg, 0.185 mmol), pyridine (45 μl, 0.556 mmol) and N,N-dimethylaminopyridine (2.3 mg, 0.0185 mmol) were added, and further acetic anhydride (52 μl, 0.556 mmol) was added, followed by refluxing for 3 hours. This was cooled to room temperature, followed by addition of saturated aqueous ammonium chloride solution, and passed through Whatman tube. The resulting organic phase was concentrated under reduced pressure, to obtain 1-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-ethanone as a crude product. To this, TFA (2 ml) and concentrated sulfuric acid (2 drops) were added, followed by stirring at 40° C. for 4 hours. After concentration of TFA under reduced pressure, water was added, followed by neutralization with 1M aqueous sodium hydroxide solution. After filtering the solid, dichloromethane (5 ml) was added, followed by stirring at room temperature for 30 minutes, and the solid was filtered off, to obtain the desired compound as a colorless solid (29.3 mg, yield 46%).

reactant | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 0.185 mmol, 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | pyridine | 0.556 mmol, 45 μl | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.556 mmol, 52 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
product | 1-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-ethanone | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C(C)=O)CC3=CC=C(C=C3)OC)C=C1 | C32H35N7O4
